US06423704B1
1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[5-(3-methanesulfonyl-[1,2,4]triazol-4-yl)-2-methoxy-phenyl]-methanone
Condense 5-(3-methanesulfonyl-[1,2,4]triazol-4-yl)-2-methoxy-benzoic acid (0.125 g, 0.42 mmol) and 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride (0.23 g, 0.42 mmol) in the presence of 1-hydroxybenzotriazole hydrate (0.062 g, 0.51 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.97 g, 0.51 mmol), diisopropylethylamine (0.22 mL, 1.26 mmol), and dichloromethane (15 mL) as described for the preparation of Example 124 to afford 0.065 g of the title compound, Rf=0.28 (silica gel, 10% methanol in dichloromethane). The compound may be converted to the dihydrochloride salt by methods well known in the art.

reactant | 5-(3-methanesulfonyl-[1,2,4]triazol-4-yl)-2-methoxy-benzoic acid | 0.42 mmol, 0.125 g | CS(=O)(=O)C1=NN=CN1C=1C=CC(=C(C(=O)O)C1)OC | C11H11N3O5S
reactant | 1-(2-ethoxy-ethyl)-2-{4-[2-((S)-3-phenyl-pyrrolidin-3-yl)-ethyl]-[1,4]diazepan-1-yl}-1H-benzoimidazole dihydrochloride | 0.42 mmol, 0.23 g | Cl.Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CNCC2)C2=CC=CC=C2
reactant | 1-hydroxybenzotriazole hydrate | 0.51 mmol, 0.062 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.51 mmol, 0.97 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 1.26 mmol, 0.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-[(R)-3-(2-{4-[1-(2-Ethoxy-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepan-1-yl}-ethyl)-3-phenyl-pyrrolidin-1-yl]-1-[5-(3-methanesulfonyl-[1,2,4]triazol-4-yl)-2-methoxy-phenyl]-methanone | 0.065 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CC[C@]2(CN(CC2)C(=O)C2=C(C=CC(=C2)N2C(=NN=C2)S(=O)(=O)C)OC)C2=CC=CC=C2 | C39H48N8O5S
